* C:\Users\silva\Documents\GitHub\Capstone_Electrical\she940\Multiple Gains.asc
R1 N005 Vi 0.6
R2 Vi N007 2m
R4 N009 N008 68k
R5 N008 0 10k
R6 N010 1V65 68k
R7 N010 Vi 10k
XU1 N010 N008 5V 0 N009 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R8 N004 N003 330k
R9 N003 0 10k
R10 N006 1V65 330k
R11 N006 Vi 10k
XU2 N006 N003 5V 0 N004 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R22 Vi N007 2m
I1 0 N005 100
R3 N007 0 2m
R16 N007 0 2m
XReg1 0 5V Vdc LT1085-5
Cin1 Vdc 0 47µ Rser=0.001
Cout1 5V 0 10µ Rser=0.001
V2 N011 0 18
R18 N011 Vv 22k
R19 Vv 0 1k
XU4 Vv N012 5V 0 N012 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R20 Vvo N012 1k
C2 Vvo 0 100n
D§Z1 0 Vv D
V1 Vdc 0 12
D1 Vdc N001 D
R14 N001 0 1k
D3 Debug N002 D
R17 N002 0 330
R21 5V Vref 680
R23 Vref 0 330
XU5 Vref 1V65 5V 0 1V65 level5 Avol=1Meg GBW=10Meg Phimargin=45 SlewPos=10Meg SlewNeg=10Meg En=0 Enk=0 In=0 Ink=0 Rcm=500Meg Ccm=1p Rdiff=500k Cdiff=2p Ro=1k Vos=0 Ibp=2n Ibn=1n Iq=1m Rail=0 Ilimit=25m
R24 vo_high N009 1k
C4 vo_high 0 180nF
R25 vo_low N004 1k
C5 vo_low 0 180nF
C1 N009 N008 2.7n
C3 N004 N003 560p
C6 0 N010 2.7n
C7 0 N006 560p
D§Z2 0 vo_low D
D§Z3 0 vo_high D
D§Z4 0 Vvo D
.model D D
.lib C:\Users\silva\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10ms
* Different gains for whether high current range or low current range.
* Voltage sensing
.model Z D(BV=3.3 IBV=1m)
* Current Sensing
* +-20A Range
* +-100A Range
* LEDs
* Linear Regulator
* Reference voltage buffer
* Shunt resistor
* Difference amplifier
* Buffer
* Low-pass filter
* Low-pass filter
* Low-pass filter
* Simulation Commands
.lib LT1083.lib
.lib UniversalOpAmp5.lib
.backanno
.end
